US06057341
(-)-4-[(1,2,3,4,4a,9b-Hexahydro-1,4a,9b-trimethyl-1,4-methanodibenzofuran-8-yl)carbonyloxy]benzoic acid
The same synthesis as that carried out in the case of Example 11, from (+)-(1,2,3,4,4a,9b-hexahydro-1,4a,9b-trimethyl-1,4-methanodibenzofuran-8-yl)carboxylic acid, followed by hydrogenation under the same conditions as in Example 21, results in the laevorotatory enantiomer 13 exhibiting the same physicochemical characteristics as those of the enantiomer 12; αD =-3.2° (c=1, CHCl3).

reactant | (+)-(1,2,3,4,4a,9b-hexahydro-1,4a,9b-trimethyl-1,4-methanodibenzofuran-8-yl)carboxylic acid | CC12CCC(C3(OC4=C(C31C)C=C(C=C4)C(=O)O)C)C2 | C17H20O3
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (-)-4-[(1,2,3,4,4a,9b-Hexahydro-1,4a,9b-trimethyl-1,4-methanodibenzofuran-8-yl)carbonyloxy]benzoic acid | CC12CCC(C3(OC4=C(C31C)C=C(C=C4)C(=O)OC4=CC=C(C(=O)O)C=C4)C)C2 | C24H24O5
